US07943776B2
N-cyclopropyl-4-methyl-3-({4-[(5-methylisoxazol-3-yl)methoxy]benzoyl}amino)benzamide hydrobromide
Using an analogous procedure to that described in Example 36, N-cyclopropyl-4-methyl-3-({4-[(5-methylisoxazol-3-yl)methoxy]benzoyl}amino)benzamide was reacted with hydrobromic acid to give the title compound; NMR Spectrum: (DMSOd6) 0.57 (m, 2H), 0.68 (m, 2H), 2.26 (s, 3H), 2.44 (5, 3H), 2.85 (m, 1H), 5.25 (s, 2H), 6.37 (s, 1H), 7.15 (m, 2H), 7.31 (m, 1H), 7.61 (m, 1H), 7.78 (s, 1H), 7.98 (m, 2H), 8.37 (s, 1H), 9.82 (s, 1H); Mass Spectrum: M−H− 404, M+Na+ 428.

reactant | N-cyclopropyl-4-methyl-3-({4-[(5-methylisoxazol-3-yl)methoxy]benzoyl}amino)benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)OCC1=NOC(=C1)C)=O)=O | C23H23N3O4
reactant | hydrobromic acid | Br | BrH
product | N-cyclopropyl-4-methyl-3-({4-[(5-methylisoxazol-3-yl)methoxy]benzoyl}amino)benzamide hydrobromide | Br.C1(CC1)NC(C1=CC(=C(C=C1)C)NC(C1=CC=C(C=C1)OCC1=NOC(=C1)C)=O)=O | InChI=1S/C23H23N3O4.BrH/c1-14-3-4-17(23(28)24-18-7-8-18)12-21(14)25-22(27)16-5-9-20(10-6-16)29-13-19-11-15(2)30-26-19;/h3-6,9-12,18H,7-8,13H2,1-2H3,(H,24,28)(H,25,27);1H
